US04064266
In a similar manner as described in Example 2 reaction of 3-tert-butyl-4-hydroxy-5-iodo-6-methylbenzaldehyde and malononitrile gave 3-tert-butyl-4-hydroxy-5-iodo-6-methylbenzylidenemalononitrile as prisms from ethylenedichloride m.p. 158°.

reactant | 3-tert-butyl-4-hydroxy-5-iodo-6-methylbenzaldehyde | C(C)(C)(C)C=1C=C(C=O)C(=C(C1O)I)C | C12H15IO2
reactant | malononitrile | C(CC#N)#N | C3H2N2
solvent | ethylenedichloride | C(CCl)Cl | C2H4Cl2
product | 3-tert-butyl-4-hydroxy-5-iodo-6-methylbenzylidenemalononitrile | C(C)(C)(C)C=1C=C(C=C(C#N)C#N)C(=C(C1O)I)C | C15H15IN2O
